.model PMOS pmos (level=1)
.model NMOS nmos (level=1)

.subckt INV Y A VDD VSS
MN0 Y A VDD VDD pmos W=10u L=1u
MP0 Y A GND GND nmos W=5u L=1u
.ends

.subckt NAND2 Y A B VDD VSS
MN0 Y A vdd vdd pmos w=2u l=0.18u
MN1 Y B vdd vdd pmos w=2u l=0.18u
MP0 Y A n2 0 nmos w=1u l=0.18u
MP1 n2 B 0 0 nmos w=1u l=0.18u
.ends

.subckt HALF_ADDER CO S A B VDD VSS
MP0 VDD A net01 VDD pmos w=0.12u l=0.06u
MP1 VDD B net01 VDD pmos w=0.12u l=0.06u
MP2 net04 A net03 VDD pmos w=0.20u l=0.06u
MP3 VDD B net04 VDD pmos w=0.20u l=0.06u
MP4 VDD net01 net03 VDD pmos w=0.12u l=0.06u
MP5 VDD net03 S VDD pmos w=0.30u l=0.06u
MP6 VDD net01 CO VDD pmos w=0.30u l=0.06u
MN0 net01 A net02 VSS nmos w=0.12u l=0.06u
MN1 net02 B VSS VSS nmos w=0.12u l=0.06u
MN2 net05 A VSS VSS nmos w=0.12u l=0.06u
MN3 net05 B VSS VSS nmos w=0.12u l=0.06u
MN4 net03 net01 net05 VSS nmos w=0.12u l=0.06u
MN5 S net03 VSS VSS nmos w=0.20u l=0.06u
MN6 CO net01 VSS VSS nmos w=0.20u l=0.06u
.ends ADHM1UM

